US08530504B2
Ethyl 7-[(tert-butoxycarbonyl)amino]-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazole-3-carboxylate
To an acetone (7 mL) solution of ethyl 7-formyl-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazole-3-carboxylate (100 mg, 0.35 mmol), was added aqueous (3 mL) solution of potassium permanganate (83.4 mg, 0.53 mmol), and the mixture was stirred at room temperature for 45 minutes. To the reaction mixture, aqueous hydrogen peroxide was added, and insoluble matters were filtered off and then the organic solvent in the filtrate was distilled off under reduced pressure. The residue was subjected to cotton filtration, and a 2N aqueous solution of hydrochloric acid was added thereto to yield a solid, the obtained solid was filtered and dried. To a toluene (2 mL) solution of the obtained white solid (80.3 mg, 0.27 mmol) were added diphenylphosphoryl azide (63.1 μL, 0.29 mmol), triethylamine (44.7 μL, 0.32 mmol) and tert-butyl alcohol (122 μL, 1.33 mmol), and the mixture was stirred at 110° C. for two hours. The solvent in the reaction mixture was distilled off under reduced pressure, and the residue was purified by medium pressure silica gel column chromatography (n-heptane/ethyl acetate: 25% then 66%) to obtain 35.7 mg (0.096 mmol) of the title compound.

reactant | ethyl 7-formyl-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazole-3-carboxylate | 0.35 mmol, 100 mg | C(=O)C=1C(=NN2C1SC(=C2C(=O)OCC)SC)C | C11H12N2O3S2
reactant | potassium permanganate | 0.53 mmol, 83.4 mg | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | hydrogen peroxide | OO | H2O2
reactant | diphenylphosphoryl azide | 0.29 mmol, 63.1 μL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 0.32 mmol, 44.7 μL | C(C)N(CC)CC | C6H15N
reactant | tert-butyl alcohol | 1.33 mmol, 122 μL | C(C)(C)(C)O | C4H10O
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 7 mL | CC(=O)C | C3H6O
product | Ethyl 7-[(tert-butoxycarbonyl)amino]-6-methyl-2-(methylthio)pyrazolo[5,1-b][1,3]thiazole-3-carboxylate | 0.096 mmol, 35.7 mg | C(C)(C)(C)OC(=O)NC=1C(=NN2C1SC(=C2C(=O)OCC)SC)C | C15H21N3O4S2
